US07074800B1
4-Chloro-6-methoxy-7-(3-methylsulphonylpropoxy)quinazoline (0.15 g, 0.45 mmol), (prepared as described for the starting material in Example 50), potassium carbonate (94 mg, 0.68 mmol) and 7-hydroxyquinoline (79 mg, 0.54 mmol) were suspended in anhydrous DMF (1.5 ml) and heated to 90° C. overnight. The compound was precipitated upon addition of water. The precipitate was collected by filtration, washed with water and dried under vacuum over phosphorus pentoxide to give 6-methoxy-7-(3-methylsulphonylpropoxy)4-(quinolin-7-yloxy)quinazoline (161 mg, 81%).

reactant | 4-Chloro-6-methoxy-7-(3-methylsulphonylpropoxy)quinazoline | 0.45 mmol, 0.15 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCS(=O)(=O)C | C13H15ClN2O4S
reactant | potassium carbonate | 0.68 mmol, 94 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-hydroxyquinoline | 0.54 mmol, 79 mg | OC1=CC=C2C=CC=NC2=C1 | C9H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(3-methylsulphonylpropoxy)4-(quinolin-7-yloxy)quinazoline | 161 mg, 81% | COC=1C=C2C(=NC=NC2=CC1OCCCS(=O)(=O)C)OC1=CC=C2C=CC=NC2=C1 | C22H21N3O5S
